US04075221
A stirred solution of 8-chloro-1-benzyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine (3.85 g., 0.01 mole) in dry dimethylformamide (50 ml.) was cooled, under nitrogen, in an ice bath and treated with N,N,N',N',-tetramethyldiaminomethane (1.229 g., 0.012 mole) and then dropwise with acetyl chloride (0.923 ml., 0.013 mole). The mixture was kept in the ice bath for 2 hours, poured into a mixture of ice and saturated aqueous sodium bicarbonate solution and extracted several times with chloroform. The extracts were washed with a dilute aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo using xylene and toluene to help remove dimethylformamide. The residue was chromatographed on silica gel (200 g.) with methanol. The product thus obtained was crystallized from diethylether to give 8-chloro-1-[2-(dimethylamino)-1-phenylethyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in six crops; 0.483 g. of melting point 168.5°-170° C; 1.436 g. of melting point 169°-170.5° C. and 0.471 g. of melting point 169°-170.5° C., 0.530 g. of melting point 168.5°-170° C.; 0.231 g. of melting point 169°-170° C. and 0.269 g. of melting point 169°-170.5° C. The analytical sample was crystallized from ethyl acetate-Skellysolve B hexanes and had a melting point of 169.5°-171.5° C.

reactant | 8-chloro-1-benzyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.01 mole, 3.85 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC3=CC=CC=C3)C3=CC=CC=C3)C1 | C23H17ClN4
reactant | N,N,N',N',-tetramethyldiaminomethane | 0.012 mole, 1.229 g | CN(C)CN(C)C | C5H14N2
reactant | acetyl chloride | 0.013 mole, 0.923 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 8-chloro-1-[2-(dimethylamino)-1-phenylethyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(CN(C)C)C3=CC=CC=C3)C3=CC=CC=C3)C1 | C26H24ClN5
